US08735384B2
To a solution of 4-fluoro-2-methylaniline (5.0 g, 40.0 mmol) in DCM (100 mL) at RT was added bromine (2.06 mL, 40.0 mmol). The reagent appeared to react instantly and a solid precipitate was formed. The reaction was filtered and washed with DCM to give 2-bromo-4-fluoro-6-methylaniline hydrobromide as a light tan solid.

reactant | 4-fluoro-2-methylaniline | 40.0 mmol, 5.0 g | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | bromine | 40.0 mmol, 2.06 mL | BrBr | Br2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-fluoro-6-methylaniline hydrobromide | Br.BrC1=C(N)C(=CC(=C1)F)C | InChI=1S/C7H7BrFN.BrH/c1-4-2-5(9)3-6(8)7(4)10;/h2-3H,10H2,1H3;1H
